US05153210
A mixture of methyl 5-[4-acetonylphenoxymethyl]furan-2-carboxylate (1.76 g) and 2-hydroxy-2-(3-chlorophenyl) ethanamine (1.05 g) in dry benzene (100 ml) was heated under reflux with azeotropic removal of water, for 2 hr. The solvent was evaporated and sodium borohydride (2 g) added, in portions, to a stirred solution of the residual oil in methanol (80 ml) with cooling in ice. The mixture was stirred at ambient temperature for 3 hr. the solvent was evaporated and the residue was partitioned between water and dichloromethane. The organic layer was dried (MgSO4) and evaporated to an oil which was purified by column chromatography on silica gel. Elution with methanol:chloroform (4:96) gave an oil which was crystallised from n-hexane to give methyl 5-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]furan-2-carboxylate, m.pt 75°-86° C., as a 19:81 mixture of diastereoisomers. The mother liquor was evaporated; crystallisation from Petroleum ether (60:80)--ether gave a second crop, m.pt. 75°-83° C., as a 55:45 mixture of diastereoisomers.

reactant | methyl 5-[4-acetonylphenoxymethyl]furan-2-carboxylate | 1.76 g | C(C(=O)C)C1=CC=C(OCC2=CC=C(O2)C(=O)OC)C=C1 | C16H16O5
reactant | 2-hydroxy-2-(3-chlorophenyl) ethanamine | 1.05 g | OC(CN)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | methyl 5-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]furan-2-carboxylate | ClC=1C=C(C(CNC(CC2=CC=C(OCC3=CC=C(O3)C(=O)OC)C=C2)C)O)C=CC1 | C24H26ClNO5
